US04705797
Preparation of methyl N-(3,3-diphenylpropyl)-2-amino-ethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate (compound 2279)
A solution comprising 5.92 g of methyl 2-chloroethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)- pyridine-3,5-dicarboxylate and 9.50 g of 3,3-diphenylpropylamine in 20 ml of xylene was refluxed under stirring for 105 minutes. The mixture was then cooled. By dilution with diethyl ether a semisolid compound was obtained, and it was separated from the liquid by decantation. The residue was treated with diethyl ether at 0°-4° C. and the supernatant was decanted. This procedure was repeated until a solid was obtained, and this was collected by filtration. Mother liquors and washings from the decantation were collected and evaporated to dryness under vacuum. The residue was chromatographed on a silica gel column (270 g) using a mixture of chloroform and acetone as eluent. Pure fractions were combined and the solvent was evaporated off. The residue was dissolved in diethyl ether and hydrogen chloride in diethyl ether was added. The solid (3.92 g) was crystallized from ethyl acetate or isopropyl acetate and recrystallized from ethyl acetate to give 3.46 g of the title compound, m.p. 128°-32° C.

reactant | methyl 2-chloroethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)- pyridine-3,5-dicarboxylate | 5.92 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCl)C | C18H19ClN2O6
reactant | 3,3-diphenylpropylamine | 9.50 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl N-(3,3-diphenylpropyl)-2-amino-ethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 3.46 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCNCCC(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H35N3O6
